US06093744
Oxalyl chloride (0.6 mL, 6.9 mmol) was added dropwise to a solution of 2,4,6-triisopropylphenyl acetic acid (1.52 g, 5.8 mmol) in 150 mL toluene with 4 drops of N,N-dimethylformamide as a catalyst. The resulting solution was stirred overnight and then concentrated in vacuo. The residue was redissolved in 150 mL dichloromethane. Sulfamic acid 2,6-diisopropyl-4-thiocyanato-phenyl ester (1.70 g, 5.8 mmol) and triethylamine (2.0 mL) were added, and the resulting mixture was stirred for 2 hours. Washed with 1M HCl, dried the organic layer over magnesium sulfate, filtered, and concentrated to give 2.24 g of [(2,4,6-triisopropyl-phenyl)-acetyl]-sulfamic acid 2,6-diisopropyl-4-thiocyanato-phenyl ester as a white solid; mp 164-165° C.

reactant | Oxalyl chloride | 6.9 mmol, 0.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,4,6-triisopropylphenyl acetic acid | 5.8 mmol, 1.52 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)CC(=O)O | C17H26O2
reactant | Sulfamic acid 2,6-diisopropyl-4-thiocyanato-phenyl ester | 5.8 mmol, 1.70 g | C(C)(C)C1=C(C(=CC(=C1)SC#N)C(C)C)OS(N)(=O)=O | C13H18N2O3S2
reactant | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
product | [(2,4,6-triisopropyl-phenyl)-acetyl]-sulfamic acid 2,6-diisopropyl-4-thiocyanato-phenyl ester | 2.24 g | C(C)(C)C1=C(C(=CC(=C1)SC#N)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O | C30H42N2O4S2
